US04331676
2-[(4R)-4-Acetylthio-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester
200 mg of 2-ethoxy-2-hydroxyacetic acid p-nitrobenzyl ester and 2 g of molecular sieves A4 are added to a solution of 54.5 mg of (3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidine in a mixture of 4 ml of toluene and 1 ml of dimethylformamide, and the mixture is stirred for 2 hours at 50°. The molecular sieves are filtered off and the filtrate is concentrated in vacuo. The residue is chromatographed over silica gel, and by elution with toluene/ethyl acetate (9:1) the title compound, contaminated with some glyoxylate, is obtained. TLC: Rf =0.48 (ethyl acetate); IR spectrum (in CH2Cl2): absorption bands at 2.89 (broad), 5.64, 5.73, 5.91, 6.24, 6.56, 7.44, 7.62, 7.83-8.15 (broad, sh), 8.26, 8.39 and 8.80-9.30 (broad) μ.

reactant | 2-ethoxy-2-hydroxyacetic acid p-nitrobenzyl ester | 200 mg | [N+](=O)([O-])C1=CC=C(COC(C(O)OCC)=O)C=C1 | C11H13NO6
reactant | (3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidine | 54.5 mg | C(C)(=O)S[C@@H]1[C@H](C(N1)=O)OC | C6H9NO3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-[(4R)-4-Acetylthio-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(O)N2C(C[C@H]2SC(C)=O)=O)=O)C=C1 | C14H14N2O7S
